US08022222B2
A 250 mL round bottom flask was charged with methyl 3-(2-(4-methylthiazol-2-ylamino)pyridin-4-yloxy)benzoate (2.0 g, 5.859 mmol) and methanol (100 mL) was added. To this solution was added 1M NaOH (30 mL). The reaction mixture was heated at 60° C. with stirring for 3 hours. The reaction mixture was cooled and concentrated. To the residue was added 1% HCl and 0.5 mL 6N HCl. The solution was filtered and the residue was collected to give 3-(2-(4-methylthiazol-2-ylamino)pyridin-4-yloxy)benzoic acid (1.499 g, 77.38% yield) as a tan solid. 1H NMR (CDCl3) δ 8.24 (d, 1H), 7.94 (dt, 1H), 7.79 (t, 1H), 7.52 (t, 1H), 7.33 (ddd, 1H), 6.86 (bs, 1H), 6.68 (dd, 1H), 6.39 (d, 1H), 2.45 (d, 3H); Mass spectrum (apci) m/z=328 (100) (M+H).

reactant | methyl 3-(2-(4-methylthiazol-2-ylamino)pyridin-4-yloxy)benzoate | 5.859 mmol, 2.0 g | CC=1N=C(SC1)NC1=NC=CC(=C1)OC=1C=C(C(=O)OC)C=CC1 | C17H15N3O3S
reactant | NaOH | 1M, 30 mL | [OH-].[Na+]
solvent | methanol | 100 mL | CO | CH4O
product | 3-(2-(4-methylthiazol-2-ylamino)pyridin-4-yloxy)benzoic acid | 1.499 g, 77.38% yield | CC=1N=C(SC1)NC1=NC=CC(=C1)OC=1C=C(C(=O)O)C=CC1 | C16H13N3O3S
